US06451834B1
Indan-1-one (3.30 g), thiophene-3-carboxaldehyde (2.60 ml), acetic acid (0.47 ml) and piperidine (0.57 ml) were heated together on a steam-bath for 16 hours. The mixture was cooled to give a solid mass which was boiled with IMS (120 ml) and hot filtered to remove insoluble material. The filtrate was cooled in ice to precipitate a brown solid which was collected by filtration and dried to give 2-(3-thienyl)methyleneindan-1-one, m.p. 137-13 8° C.

reactant | Indan-1-one | 3.30 g | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | thiophene-3-carboxaldehyde | 2.60 ml | S1C=C(C=C1)C=O | C5H4OS
reactant | piperidine | 0.57 ml | N1CCCCC1 | C5H11N
solvent | acetic acid | 0.47 ml | C(C)(=O)O | C2H4O2
product | 2-(3-thienyl)methyleneindan-1-one | S1C=C(C=C1)C=C1C(C2=CC=CC=C2C1)=O | C14H10OS
